US04070481
Three parts of ethyl 4-(2-methylphenyl)-3-oxobutanoate, 1 part of sodium methoxide, 4.6 parts of 1-bromododecane, 0.5 parts of potassium iodide and 50 parts of absolute ethanol were refluxed together for 4 hours and then stirred 18 hours at room temperature. The mixture was evaporated to a small volume, diluted with 100 parts water and extracted with ether. The ether extract was washed with saturated sodium bicarbonate, saturated sodium chloride solution and dried over magnesium sulfate. Evaporation of the ether gave 6 parts of crude ethyl 2-[(2-methylphenyl)acetyl]tetradecanoate as an oil which was not further purified.

reactant | ethyl 4-(2-methylphenyl)-3-oxobutanoate | CC1=C(C=CC=C1)CC(CC(=O)OCC)=O | C13H16O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1-bromododecane | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium iodide | [I-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-[(2-methylphenyl)acetyl]tetradecanoate | CC1=C(C=CC=C1)CC(=O)C(C(=O)OCC)CCCCCCCCCCCC | C25H40O3
